US06268387B1
Step A: N-(3-Nitro-4-fluorophenyl)-benzamide
Benzoyl chloride (12 mL, 103 mmol) was added dropwise to 4-fluoro-3-nitroaniline (15.64 g, 100 mmol) and triethylamine (17 mL, 122 mmol) in ethyl acetate (400 mL) at room temperature. The reaction mixture was stirred for 2 hours and then allowed to stand overnight. The reaction mixture was washed with 10% aqueous citric acid solution (200 mL) saturated aqueous sodium bicarbonate solution (200 mL), and brine (100 mL); dried (magnesium sulfate), filtered, and concentrated to about 100 mL at which point a solid began to precipitate. The mixture was cooled to zero degrees and the straw-colored solid collected by filtration to afford the product (21.1 g) in two crops.

reactant | Benzoyl chloride | 103 mmol, 12 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 4-fluoro-3-nitroaniline | 100 mmol, 15.64 g | FC1=C(C=C(N)C=C1)[N+](=O)[O-] | C6H5FN2O2
reactant | triethylamine | 122 mmol, 17 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
product | N-(3-Nitro-4-fluorophenyl)-benzamide | 21.1 g | [N+](=O)([O-])C=1C=C(C=CC1F)NC(C1=CC=CC=C1)=O | C13H9FN2O3
